US07968570B2
A mixture of 7-chloro-5-(2,2-Difluoro-ethoxy)-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.057 g, 0.14 mmol), and 30% sodium methoxide-methanol (0.12 mL) in methanol (4 mL) was stirred at 100° C. for 1 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-(2,2-Difluoro-ethoxy)-7-methoxy-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.030 g, 51%). 1H NMR (300 MHz, CDCl3): δ (ppm) 3.96 (s, 3H), 4.22 (m, 4H), 4.73 (s, 2H), 5.94-6.32 (m, 1H), 6.45 (d, 2H), 7.17 (d, 2H), 7.35 (d, 2H). GC-MS: m/z 417 (M)+, 399 (M−18)+.

reactant | 7-chloro-5-(2,2-Difluoro-ethoxy)-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.14 mmol, 0.057 g | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)OCC(F)F | C18H13ClF5NO3
reactant | sodium methoxide methanol | 0.12 mL | C[O-].[Na+].CO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4 mL | CO | CH4O
solvent | hexane | CCCCCC | C6H14
product | 5-(2,2-Difluoro-ethoxy)-7-methoxy-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.030 g, 51% | FC(COC=1C=C2CN(C(C2=C(C1)OC)=O)CC1=CC=C(C=C1)OC(F)(F)F)F | C19H16F5NO4
